US04808608
6-fluoro-1,2,3,4-tetrahydrocarbazol-1-yl-acetic acid
Following the procedure of Example 1, but using 1-(4-fluorophenyl)hydrazine hydrochloride and ethyl-2-cyclohexanone acetate as starting materials, the title compound was prepared.

reactant | 1-(4-fluorophenyl)hydrazine hydrochloride | Cl.FC1=CC=C(C=C1)NN
reactant | ethyl-2-cyclohexanone acetate | C(C)(=O)O.C(C)C1C(CCCC1)=O
product | 6-fluoro-1,2,3,4-tetrahydrocarbazol-1-yl-acetic acid | FC=1C=C2C=3CCCC(C3NC2=CC1)CC(=O)O | C14H14FNO2
